US07977477B2
A mixture of 4-(2,6-difluorobenzylamino)-1H-pyrazole-3-carboxylic acid (690 mg, 2.6 mmol) Example 16D), methyl 2,3-diaminobenzoate (415 mg, 2.6 mmol), EDC (590 mg, 3.1 mmol) and HOBt (415 mg, 3.1 mmol) in DMF (10 ml) was stirred at ambient temperature for 16 h and then reduced in vacuo. The residue was partitioned between EtOAc and brine and the organic portion dried (MgSO4), filtered, reduced then crystallised from hot EtOH. The amide intermediate (480 mg) was dissolved in AcOH (10 ml) then heated at reflux for 3 h. The reaction mixture was reduced in vacuo and then azeotroped with toluene (2×20 ml) to afford 2-[4-(2,6-difluoro-benzoylamino)-1H-pyrazol-3-yl]-1H-benzimidazole-4-carboxylic acid methyl ester (420 mg) as a fawn coloured solid. (LC/MS: Rt 3.82, [M+H]+ 398).

reactant | 4-(2,6-difluorobenzylamino)-1H-pyrazole-3-carboxylic acid | 2.6 mmol, 690 mg | FC1=C(CNC=2C(=NNC2)C(=O)O)C(=CC=C1)F | C11H9F2N3O2
reactant | methyl 2,3-diaminobenzoate | 2.6 mmol, 415 mg | NC1=C(C(=O)OC)C=CC=C1N | C8H10N2O2
reactant | EDC | 3.1 mmol, 590 mg
reactant | HOBt | 3.1 mmol, 415 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-[4-(2,6-difluoro-benzoylamino)-1H-pyrazol-3-yl]-1H-benzimidazole-4-carboxylic acid methyl ester | 420 mg | COC(=O)C1=CC=CC=2NC(=NC21)C2=NNC=C2NC(C2=C(C=CC=C2F)F)=O | C19H13F2N5O3
